US08563547B2
(1) 4-hydroxy-4-(4-(trifluoromethoxy)phenyl)piperidine-1-formic acid tert-butyl ester
4-trifluoromethoxy bromobenzene (2.41 g, 10 mmol) was dissolved in dry tetrahydrofuran (30 mL), cooled to −78° C., to which slowly added dropwise n-butyllithium (1.6M n-hexane solution, 6.5 mL), kept the temperature below −70° C. during the dropwise adding procedure, after adding, kept stirring this system for 20 min, added 4-carbonyl piperidine-1-formic acid tert-butyl ester (1.99 g, 10 mmol) in tetrahydrofuran solution, kept the temperature below −70° C. during the dropwise adding procedure, after adding, the temperature can be increased to room temperature while stirring for 15 h. After the reaction was finished, added saturated ammonium chloride aqueous solution to quench reaction, partitioned, organic phases were washed by saturated saline, followed by anhydrous sodium sulphate drying, concentration, column chromatography (PE: EA=15:1) to give 1.6 g light yellow gel-like substance, yield: 40%.

reactant | 4-trifluoromethoxy bromobenzene | 10 mmol, 2.41 g | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
reactant | n-butyllithium | 1.6M, 6.5 mL | C(CCC)[Li]
reactant | 4-carbonyl piperidine-1-formic acid tert-butyl ester | 10 mmol, 1.99 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C=O | C11H17NO3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-hydroxy-4-(4-(trifluoromethoxy)phenyl)piperidine-1-formic acid tert-butyl ester | yield: 40% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)OC(F)(F)F)O | C17H22F3NO4
